US06869948B1
Meloxicam Meglumin Salt Monohydrate
12.5 kg (35.57 mol) meloxicam and 6.9 kg (35.57 mol) meglumin are added successively, with stirring, to a mixture of 275 1 of acetone and 7:1 of water in a suitable reactor 1, then 1 kg of industrial-grade activated charcoal are added. The reaction mixture is heated and refluxed for 30 minutes. Then the mixture is forced through a pressure filter into a second reactor II. Reactor I and the pressure filter are washed out with 101 of acetone. The mixture is combined with 10-15 g meloxicam meglumin salt monohydrate seed crystals, cooled to 20° C. and stirred for 2 hours at this temperature. Then the mixture is heated, refluxed for 15 minutes and then slowly cooled to 20° C., during which time a fine crystalline crystal suspension is formed. This is stirred for 15 hours at 20° C. The crystal suspension is then centrifuged and subsequently spun dry. The centrifugal pellet is washed with 351 of acetone and again spun dry. The product is dried in the drying cupboard at 20-35° C. with fresh air for about 24 hours. Yield: 90.1% of theory; pale yellow crystalline powder, needle-like crystals; melting point: 120° C.

reactant | meloxicam | 35.57 mol, 12.5 kg | CC1=CN=C(S1)NC(=O)C2=C(C=3C=CC=CC3S(=O)(=O)N2C)O | C14H13N3O4S2
reactant | meglumin | 35.57 mol, 6.9 kg | N(C)C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | acetone | CC(=O)C | C3H6O
reactant | charcoal | C | CH4
solvent | water | O | H2O
product | Meloxicam Meglumin | Yield: 90.1% | CC1=CN=C(S1)NC(=O)C2=C(C=3C=CC=CC3S(=O)(=O)N2C)O.N(C)C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | InChI=1S/C14H13N3O4S2.C7H17NO5/c1-8-7-15-14(22-8)16-13(19)11-12(18)9-5-3-4-6-10(9)23(20,21)17(11)2;1-8-2-4(10)6(12)7(13)5(11)3-9/h3-7,18H,1-2H3,(H,15,16,19);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
